US04259510
To a 50 ml flask fitted with a stirrer, condenser, drying tube and an addition funnel is added m-fluorobenzoyl chloride (15.9 g, 0.10 mole) and benzene (100 ml). Then a solution of diethylamine (14.6 g, 0.20 mole) in benzene (100 ml) is added dropwise over 1 hour and the reaction mixture allowed to stir at room temperature overnight. Water (150 ml) is then added rapidly and after trituration for a few minutes, the benzene layer is decanted and washed repeatedly with water (5×150 ml), dried (anhyd. Na2SO4) and the solvent removed under vacuum to afford 18 grams of N,N-diethyl-3-fluorobenzamide as a yellow oil. Elemental analysis calculated for C11H14FNO: C, 67.70; H, 7.22; F, 9.72; N, 7.16; Found: C, 66.40; H, 7.08; F, 9.65; N, 6.92

reactant | m-fluorobenzoyl chloride | 0.10 mole, 15.9 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | diethylamine | 0.20 mole, 14.6 g | C(C)NCC | C4H11N
reactant | Water | 150 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N,N-diethyl-3-fluorobenzamide | 18 grams | C(C)N(C(C1=CC(=CC=C1)F)=O)CC | C11H14FNO
